US05243042
10% Palladium on charcoal (172 mg) was added to a solution of 5-[[(phenylmethoxy)carbonyl]amino]-3-(β-D-ribofuranosyl)imidazo[4,5-d][1,3]oxazin-7(1H)-one (172 mg, 0.41 mmol) in DMF (7 mL) and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 h. The mixture was filtered through prewashed Celite and was concentrated under high vacuum. The residue was dissolved in water and filtered through a Millipore Millex-HV filter (0.45 μm). The filtrate was lyophilized to give oxanosine as a white powder: 115 mg, (100%). Crystallization from warm water gave oxanosine (75%) as colorless needles: mp 191°-192° C.; [α]25D -38.7° (c 1, H2O); IR (KBr) 3440-3200, 1802, 1772, and 1550 cm-1 ; MS [(+) FAB]m/z 285 (M+H+); NMR (D2O) δ3.80-3.91 (m, 2), 4.21-4.23 (m, 1), 4.40 (t, 1, J=4.6 Hz), 4.69 (t, 1, J=5.5 Hz), 5.80-5.85 (d, 1, J=5.5 Hz), 7.98 (s, 1); UV max (H2O) 245 nm (ε11760), 287 (8450).

reactant | 5-[[(phenylmethoxy)carbonyl]amino]-3-(β-D-ribofuranosyl)imidazo[4,5-d][1,3]oxazin-7(1H)-one | 0.41 mmol, 172 mg | C1(=CC=CC=C1)COC(=O)NC=1OC(C2=C(N1)N(CN2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)=O | C18H20N4O8
catalyst | Palladium on charcoal | 172 mg | [Pd] | Pd
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | oxanosine | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N=C(OC2=O)N | C10H12N4O6
